US07838543B2
Step 2. 2′,4′-Difluoro-biphenyl-4-carboxylic Acid
Dissolve 2′,4′-difluoro-biphenyl-4-carboxylic acid methyl ester (0.426 g, 1.716 mmol) in THP (5 mL) and add a solution of NaOH (0.164 g, 4.12 mmol) in water (5.0 mL). Stir the mixture for 3 d at 40° C. Concentrate in vacuo to remove THF, add 1.0M HCl until pH 2, adsorb the mixture onto silica gel, and subject the mixture to flash column chromatography (40 g column, eluting with 50% ethyl acetate/n-hexane to 100% ethyl acetate) to yield the desired-product (0.373 g, 93%). mass spectrum (m/e): 233.3 (M−1).

reactant | 2′,4′-difluoro-biphenyl-4-carboxylic acid methyl ester | 1.716 mmol, 0.426 g | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C14H10F2O2
reactant | NaOH | 4.12 mmol, 0.164 g | [OH-].[Na+]
solvent | water | 5.0 mL | O | H2O
product | 2′,4′-Difluoro-biphenyl-4-carboxylic Acid | 0.373 g, 93% | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(=O)O | C13H8F2O2
